US06326359B1
(2R,3R,4S,5R)-2-[6-[(2,2-Diphenylethyl)amino]-2-({[2-(1-piperidinyl)ethyl]amino}methyl)-9H-purin-9-yl]-5-(methoxymethyl)tetrahydro-3,4-furandiol
{9-[(2R,3R,4S,5R)-3,4-Dihydroxy-5-(methoxymethyl)tetrahydro-2-furanyl]-6-[(2,2-diphenylethyl)amino]-9H-purin-2-yl}methyl methanesulfonate (150 mg, 0.26 mmol) (Preparation 25) was dissolved in stirred dichloromethane (5 ml) and 2-(1-piperidinyl)ethylamine (0.2 ml, 1.3 mmol) added. The reaction mixture was stirred for 24 hr at room temperature. The solvent was removed from the reaction mixture under reduced pressure and the residue partitioned between dichloromethane (100 ml) and water (50 ml). The organic layer was separated and washed with water (50 ml), followed by removal of solvent under reduced pressure and purification of the residue by column chromatography on silica gel eluting with a solvent gradient of dichloromethane:methanol (95:5) increasing in polarity to dichloromethane:methanol:ammonia (90:10:1). This gave title compound (40 mg) as a gum. MS: 603 (MH+).

reactant | {9-[(2R,3R,4S,5R)-3,4-Dihydroxy-5-(methoxymethyl)tetrahydro-2-furanyl]-6-[(2,2-diphenylethyl)amino]-9H-purin-2-yl}methyl methanesulfonate | 0.26 mmol, 150 mg | CS(=O)(=O)OCC1=NC(=C2N=CN(C2=N1)[C@@H]1O[C@@H]([C@H]([C@H]1O)O)COC)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C27H31N5O7S
reactant | 2-(1-piperidinyl)ethylamine | 1.3 mmol, 0.2 ml | N1(CCCCC1)CCN | C7H16N2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (2R,3R,4S,5R)-2-[6-[(2,2-Diphenylethyl)amino]-2-({[2-(1-piperidinyl)ethyl]amino}methyl)-9H-purin-9-yl]-5-(methoxymethyl)tetrahydro-3,4-furandiol | 40 mg | C1(=CC=CC=C1)C(CNC1=C2N=CN(C2=NC(=N1)CNCCN1CCCCC1)[C@@H]1O[C@@H]([C@H]([C@H]1O)O)COC)C1=CC=CC=C1 | C33H43N7O4
